US08097628B2
(f) 7-(Methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one
A solution of 7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one (4.974 g, 27.9 mmol) in DMF (100 ml) at 0° C. under argon was treated with sodium hydride (60%, 1.340 g, 33.5 mmol) and allowed to stir at 0° C. for 20 min. The reaction mixture was then treated with (2S)-2-oxiranylmethyl 3-nitrobenzenesulfonate (7.60 g, 29.3 mmol) and then then allowed warm slowly to rt and stirred at rt for 1 h. Water (5 ml) was then added. Reaction was evaporated, saturated aqueous NaHCO3 (500 ml) was then added and the mixture was extracted with DCM (3×500 ml). The combined organic solvents were then dried (MgSO4), filtered, evaporated to give the crude product.

reactant | 7-(methyloxy)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 27.9 mmol, 4.974 g | COC1=CC=C2CCC(NC2=N1)=O | C9H10N2O2
reactant | sodium hydride | 33.5 mmol, 1.340 g | [H-].[Na+]
reactant | (2S)-2-oxiranylmethyl 3-nitrobenzenesulfonate | 29.3 mmol, 7.60 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | Water | 5 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-(Methyloxy)-1-[(2R)-2-oxiranylmethyl]-3,4-dihydro-1,8-naphthyridin-2(1H)-one | COC1=CC=C2CCC(N(C2=N1)C[C@H]1OC1)=O | C12H14N2O3
